US05055458
Bromotrimethylsilane (0.79 ml, 6 mmol) was added dropwise to a solution of 9-[3-(diethoxyphosphorylmethoxy)propoxy]guanine (0.38 g, 1 mmol) in dry N,N-dimethylformamide (4 ml) and the reaction stirred under nitrogen at 25° C. for 2 h. Concentration in vacuo, followed by co-evaporation three times with methanol gave an off-white solid which on recrystallisation from hot water gave 9-[3-(phosphonomethoxy)propoxy]guanine (267 mg, 83%) as a white crystalline solid; m.p. 247°-250° C.; νmax (KBr) 3320, 1693, 1646, 1370, 1250 cm-1 ; δH [(CD3)2SO] 1.90(2H, m, CH2CH2CH2), 3.57(2H, d, J8.5 Hz, CH2P), 3.67(2H, t, J6 Hz, CH2OCH2P), 4.32(2H, t, J6.6 Hz, NOCH2), 6.60(2H, br.s, D2O exchangeable, NH2), 7.95(1H, s, H-8), 10.63(1H, br.s, D2O exchangeable, NH); Found: C, 33.84; H, 4.60; N, 21.57%; C9H14N5O6P requires: C, 33.86; H, 4.42; N, 21.94%.

reactant | Bromotrimethylsilane | 6 mmol, 0.79 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | 9-[3-(diethoxyphosphorylmethoxy)propoxy]guanine | 1 mmol, 0.38 g | C(C)OP(=O)(OCC)COCCCON1C=2N=C(NC(C2N=C1)=O)N | C13H22N5O6P
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 9-[3-(phosphonomethoxy)propoxy]guanine | 267 mg, 83% | P(=O)(O)(O)COCCCON1C=2N=C(NC(C2N=C1)=O)N | C9H14N5O6P
